US04798833
9-[4-Hydroxy-3-(hydroxymethyl)butyl]guanine (Method A)
A mixture of 2-amino-6-chloropurine (1.275 g, 7.5 mmol) and potassium carbonate (0.69 g, 5 mmol) in dry dimethylformamide (30 ml) was sonicated for 15 min., benzyl 2-benzyloxymethyl-4-bromobutyl ether (1.82 g, 5 mmol) was added, and the mixture was sonicated for 4h and then stirred over-night. After evaporation in vacuum the residue was extracted with 3×50 ml of chloroform and the extracts were evaporated to dryness in vacuum. Chromatography (silica gel, chloroform+methanol 20+1 by volume) afforded 0.58 g (26%) of pure compound 4-(2-amino-6-chloropurin-9-yl)-2-benzyloxymethylbutyl benzyl ether. A small sample of said compound was recrystallized from toluene. M.p. 108.5°-109.5° C.

reactant | 2-amino-6-chloropurine | 7.5 mmol, 1.275 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | potassium carbonate | 5 mmol, 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl 2-benzyloxymethyl-4-bromobutyl ether | 5 mmol, 1.82 g | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)CCBr | C19H23BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 9-[4-Hydroxy-3-(hydroxymethyl)butyl]guanine | 0.58 g, 26% | OCC(CCN1C=2N=C(NC(C2N=C1)=O)N)CO | C10H15N5O3
